US08022205B2
3-(3-Methoxybenzoyl)-dihydrofuran-2-one
A solution of γ-butyrolactone (2 g, 23.3 mmol) in dehydrated tetrahydrofuran (250 ml) was cooled to −78° C. under a nitrogen atmosphere, and dehydrated tetrahydrofuran solution of 3-methoxybenzoyl chloride (4.17 g, 24.5 mmol) was added, followed by slow addition of lithium hexamethyldisilazide (LHMDS, 1M tetrahydrofuran solution, 46.6 ml, 46.6 mmol). After stirring for 1 hour, saturated sodium hydrogencarbonate aqueous solution (50 ml) was added at −78° C. followed by quenching. After extraction with ethyl acetate (200 ml), the organic layer was washed with brine (2×200 ml), dried over sodium sulfate, and subsequently the solvent was removed under reduced pressure, to obtain a crude product as a yellow oil. The crude was purified by silica gel column chromatography (hexane/ethyl acetate=50/50), to obtain the desired compound as a yellow solid (1.84 g, 36%).

reactant | γ-butyrolactone | 23.3 mmol, 2 g | C1(CCCO1)=O | C4H6O2
reactant | 3-methoxybenzoyl chloride | 24.5 mmol, 4.17 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | lithium hexamethyldisilazide | 46.6 mmol, 1M, 46.6 ml | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 3-(3-Methoxybenzoyl)-dihydrofuran-2-one | 1.84 g, 36% | COC=1C=C(C(=O)C2C(OCC2)=O)C=CC1 | C12H12O4
